US04308397
This example was carried out essentially the same as in Example 4, except that 9 grams of trioxane (0.3 mol of formaldehyde) was charged to the reactor and the temperature rose from -27° C. to +19° C. over the 60 minutes of the run. Carbon monoxide uptake was completed in about 30 minutes. Work-up was similar to that for Example 4, 75% isopropyl isopropoxyacetate, 6% isopropyl glycolate and 12% isopropylglycolyl isopropoxyacetate were obtained.

reactant | trioxane | 0.3 mol, 9 grams | O1OOCCC1 | C3H6O3
reactant | Carbon monoxide | [C]=O | CO
reactant | isopropyl isopropoxyacetate | C(C)(C)OCC(=O)OC(C)C | C8H16O3
reactant | isopropyl glycolate | C(CO)(=O)OC(C)C | C5H10O3
product | isopropylglycolyl isopropoxyacetate | 12% | C(C)(C)OCC(=O)OC(C(O)C(C)C)=O | C10H18O5
